US08809581B2
5 g of ε-caprolactam was dissolved in 10% HCl (20 g) and heated to reflux until the starting material was reacted completely. The pH of the mixture was adjusted to 7.6 by adding 10% NaOH(aq). The mixture was concentrated at 55° C. and then recrystallized in methanol to obtain aminocaproic acid containing inorganic salts.

reactant | ε-caprolactam | 5 g | C1(CCCCCN1)=O | C6H11NO
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 20 g | Cl | ClH
product | aminocaproic acid | C(CCC(=O)O)CCN | C6H13NO2
